US06344459B1
But-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-7yl]-amide
To an ice cold solution of 0.158 g of 7-amino-4(3-bromoanilino)-quinazoline (J Med Chem, 1985:3482) in 5 mL of tetrahydrofuran was added dropwise a solution of 0.105 g of crotonic acid chloride in 5 mL of tetrahydrofuran. When the addition was complete, the ice bath was removed and the reaction stirred at room temperature for 15 hours. The reaction was filtered to remove the yellow solid which was washed with tetrahydrofuran and recrystallized from 20 mL of boiling methanol to afford 0.060 g of the desired product, mp >250° C.

reactant | 7-amino-4(3-bromoanilino)-quinazoline | 0.158 g | NC1=CC=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | crotonic acid chloride | 0.105 g | C(\C=C\C)(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | But-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-7yl]-amide | 0.060 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)NC(C=CC)=O | C18H15BrN4O
